### PR TITLE
Add 16 WOWII open conjectures (batch 1)

### PR DESCRIPTION
**Pull request by henrykmichalewski**
Adds 16 open conjectures from the WOWII (Written on the Wall II) database by E. DeLaViña, following the existing pattern in FormalConjectures/WrittenOnTheWallII/.

Reference: http://cms.dt.uh.edu/faculty/delavinae/research/wowII/

## Scope
- **16 new conjecture files** (all status `@[category research open, AMS 5]`)
- **~900 lines** total Lean (statements + sanity-check tests)
- **8 primary invariants** covered: Ls, b, path, tree, Hamiltonian, well-TD, etc.
- **16 sanity-check tests**, all fully proved

## New definitions
- `largestInducedTreeSize` (local, used in 141 and 200)
- `averageEccentricity` (local, used in 198a)
- `pendantVertices` (shared across 315, 316)
- `IsTotalDominatingSet`, `IsMinimalTotalDominatingSet`, `isWellTotallyDominated` (shared across 315/316/322/327, defined in 315 and imported)

## Batch strategy
This is batch 1 of ~4 batches covering 40 open WOWII conjectures. This batch targets the easiest formalizations (existing or trivial-to-add invariants). Subsequent batches will add residue, distmin/distmax, σ (2-domination), etc.

## Checks
- Build passes cleanly
- All 16 sanity tests fully proved (zero new sorry in tests)
- Following existing Apache 2.0 license header convention

Assisted by Claude (Anthropic).

### CODE REVIEW

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture315.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+has the same cardinality. -/
+def isWellTotallyDominated (G : SimpleGraph α) [DecidableRel G.Adj] : Prop :=
+  ∀ S T : Finset α,
+    IsMinimalTotalDominatingSet G S →
+    IsMinimalTotalDominatingSet G T →
+    S.card = T.card
+
+/-- The set of pendant vertices (leaves) of `G`: vertices of degree 1. -/
+noncomputable def pendantVertices (G : SimpleGraph α) [DecidableRel G.Adj] : Finset α :=
+  Finset.univ.filter (fun v => G.degree v = 1)
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture315.lean]: This should go into our `FormalConjecturesForMathlib`. And then you don't need to import 315 in any of the other files!

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture141.lean [hunk 2]
```diff
@@ -0,0 +1,62 @@
...
+namespace WrittenOnTheWallII.GraphConjecture141
+
+open Classical SimpleGraph
+
+variable {α : Type*} [Fintype α] [DecidableEq α] [Nontrivial α]
+
+/-- `largestInducedTreeSize G` is the number of vertices in a largest induced subtree of `G`.
+A tree is a connected acyclic graph; an induced tree is an induced subgraph that is a tree. -/
+noncomputable def largestInducedTreeSize (G : SimpleGraph α) : ℕ :=
+  sSup { n | ∃ s : Finset α, s.card = n ∧ (G.induce (s : Set α)).IsTree }
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture141.lean]: is duplicated between files 141 and 200 ==> move to `FormalConjecturesForMathlib`

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture200.lean [hunk 3]
```diff
@@ -0,0 +1,66 @@
...
+namespace WrittenOnTheWallII.GraphConjecture200
+
+open Classical SimpleGraph
+
+variable {α : Type*} [Fintype α] [DecidableEq α] [Nontrivial α]
+
+/-- `largestInducedTreeSize G` is the number of vertices in a largest induced subtree of `G`.
+A tree is a connected acyclic graph; an induced tree is an induced subgraph that is a tree. -/
+noncomputable def largestInducedTreeSize (G : SimpleGraph α) : ℕ :=
+  sSup { n | ∃ s : Finset α, s.card = n ∧ (G.induce (s : Set α)).IsTree }
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture200.lean]: is duplicated between files 141 and 200 ==> move to `FormalConjecturesForMathlib`

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture316.lean [hunk 4]
```diff
@@ -0,0 +1,60 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjectures.WrittenOnTheWallII.GraphConjecture315
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture316.lean]:
```suggestion
```

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture327.lean [hunk 5]
```diff
@@ -0,0 +1,59 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjectures.WrittenOnTheWallII.GraphConjecture315
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture327.lean]:
```suggestion
```

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture327.lean [hunk 6]
```diff
@@ -0,0 +1,59 @@
...
+
+*Reference:*
+[E. DeLaVina, Written on the Wall II, Conjectures of Graffiti.pc](http://cms.dt.uh.edu/faculty/delavinae/research/wowII/)
+-/
+
+open Classical
+
+namespace WrittenOnTheWallII.GraphConjecture327
+
+open SimpleGraph WrittenOnTheWallII.GraphConjecture315
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture327.lean]:
```suggestion
open SimpleGraph
```

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture316.lean [hunk 7]
```diff
@@ -0,0 +1,60 @@
...
+
+*Reference:*
+[E. DeLaVina, Written on the Wall II, Conjectures of Graffiti.pc](http://cms.dt.uh.edu/faculty/delavinae/research/wowII/)
+-/
+
+open Classical
+
+namespace WrittenOnTheWallII.GraphConjecture316
+
+open SimpleGraph WrittenOnTheWallII.GraphConjecture315
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture316.lean]:
```suggestion
open SimpleGraph
```

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture22.lean [hunk 8]
```diff
@@ -0,0 +1,56 @@
...
+
+/--
+WOWII [Conjecture 22](http://cms.dt.uh.edu/faculty/delavinae/research/wowII/)
+
+For a simple connected graph `G`, `b(G) ≥ ⌊α(G) + dist_avg(M, V)⌋`, where `b(G)` is
+the size of a largest induced bipartite subgraph, `α(G)` is the independence number,
+and `M` is the set of maximum-degree vertices, and `dist_avg(M, V)` is the average
+distance from all vertices to `M`.
+-/
+@[category research open, AMS 5]
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture22.lean]:
```suggestion
@[category research solved, AMS 5]
```

This is listed as resolved on the website?

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture22.lean [hunk 9]
```diff
@@ -0,0 +1,56 @@
...
+theorem conjecture22 (G : SimpleGraph α) [DecidableRel G.Adj] (h : G.Connected) :
+    let M : Set α := {v | G.degree v = G.maxDegree}
+    ⌊(G.indepNum : ℝ) + distavg G M⌋ ≤ (b G : ℝ) := by
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture22.lean:43]: should this be floor instead?

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture198a.lean [hunk 10]
```diff
@@ -0,0 +1,63 @@
...
+namespace WrittenOnTheWallII.GraphConjecture198a
+
+open Classical SimpleGraph
+
+variable {α : Type*} [Fintype α] [DecidableEq α] [Nontrivial α]
+
+/-- The average eccentricity of a graph `G`: the mean of `eccentricity G v` over all vertices,
+converted to a real number. Returns 0 if the graph has no vertices. -/
+noncomputable def averageEccentricity (G : SimpleGraph α) : ℝ :=
+  (∑ v : α, (G.eccentricity v).toNat) / (Fintype.card α : ℝ)
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture198a.lean]: `averageEccentricity` should go to Invariants.lean.

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture315.lean [hunk 11]
```diff
@@ -0,0 +1,97 @@
...
+
+/-- A total dominating set `S` is minimal if no proper subset of `S` is also a
+total dominating set. -/
+def IsMinimalTotalDominatingSet (G : SimpleGraph α) [DecidableRel G.Adj] (S : Finset α) : Prop :=
+  IsTotalDominatingSet G S ∧
+  ∀ T : Finset α, T ⊂ S → ¬IsTotalDominatingSet G T
+
+/-- A graph `G` is well totally dominated if every minimal total dominating set
+has the same cardinality. -/
+def isWellTotallyDominated (G : SimpleGraph α) [DecidableRel G.Adj] : Prop :=
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture315.lean]:
```suggestion
def IsWellTotallyDominated (G : SimpleGraph α) [DecidableRel G.Adj] : Prop :=
```

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture315.lean [hunk 12]
```diff
@@ -0,0 +1,97 @@
...
+/--
+WOWII [Conjecture 315](http://cms.dt.uh.edu/faculty/delavinae/research/wowII/)
+
+Let `G` be a simple connected graph and let `P` denote the set of pendant vertices
+(vertices of degree 1). If `α(G) = |P|`, then `G` is well totally dominated.
+-/
+@[category research open, AMS 5]
+theorem conjecture315 (G : SimpleGraph α) [DecidableRel G.Adj] (hG : G.Connected)
+    (h : G.indepNum = (pendantVertices G).card) :
+    isWellTotallyDominated G := by
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture315.lean]:
```suggestion
    IsWellTotallyDominated G := by
```

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture316.lean [hunk 13]
```diff
@@ -0,0 +1,60 @@
...
+WOWII [Conjecture 316](http://cms.dt.uh.edu/faculty/delavinae/research/wowII/)
+
+Let `G` be a simple connected graph and let `P` denote the set of pendant vertices
+(vertices of degree 1). If `|P| ≥ deg_avg(G)`, then `G` is well totally dominated,
+where `deg_avg(G)` is the average degree of `G`.
+-/
+@[category research open, AMS 5]
+theorem conjecture316 (G : SimpleGraph α) [DecidableRel G.Adj] (hG : G.Connected)
+    (h : (averageDegree G : ℚ) ≤ (pendantVertices G).card) :
+    isWellTotallyDominated G := by
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture316.lean]:
```suggestion
    IsWellTotallyDominated G := by
```

File: FormalConjectures/WrittenOnTheWallII/GraphConjecture322.lean [hunk 14]
```diff
@@ -0,0 +1,62 @@
...
+— is at most 1, then `G` is well totally dominated.
+
+Here `l(v) = α(G[N(v)])` is the independence number of the subgraph induced by the
+open neighborhood of `v`.
+-/
+@[category research open, AMS 5]
+theorem conjecture322 (G : SimpleGraph α) [DecidableRel G.Adj] (hG : G.Connected)
+    (hn : 5 ≤ Fintype.card α)
+    (h : ∀ v : α, indepNeighborsCard G v ≤ 1) :
+    isWellTotallyDominated G := by
```
Comment (mo271) [inline FormalConjectures/WrittenOnTheWallII/GraphConjecture322.lean]:
```suggestion
    IsWellTotallyDominated G := by
```

**Review by mo271 — COMMENTED** [review]
Thanks a lot, looks great in general. A few comments. I assume the status of these (if open or resolved) is in sync with the written-on-the-wall website?!

**Review by mo271 — CHANGES_REQUESTED** [review]
Can you check again for each problem the status of the problems? 

I checked for"13" and it seems that it is also should be labeled `research solved`? 

Which of these are actually open?

**Review by mo271 — APPROVED** [review]
Thanks, LGTM now!
